* E:\2024-2025\ED\Lab2\Draft1.asc
V1 N003 0 SINE(-1 0.25 1k)
V2 N002 0 20V
J1 N001 N003 0 2N3819
R1 N002 N001 1577
.model NJF NJF
.model PJF PJF
.lib C:\Users\googl\AppData\Local\LTspice\lib\cmp\standard.jft
.tran 0.02
.backanno
.end
